US06794403B2
6-Chloro-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 16, from 4-chloro-2,5-dimethoxyaniline, and 4-methoxybenzoyl chloride and was obtained as an off-white solid, m.p. 260-262° C.; MS m/e 260 (M−H)+.

reactant | 4-chloro-2,5-dimethoxyaniline | ClC1=CC(=C(N)C=C1OC)OC | C8H10ClNO2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 6-Chloro-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | ClC1=CC2=C(N=C(O2)C2=CC=C(C=C2)O)C=C1O | C13H8ClNO3
